US07214673B2
2-Methyl-10-(4-methyl-(S)-3-(2-pyridin-2-yl-ethyl)-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene trihydrochloride
Combine 2-methyl-10-((S)-3-(2-pyridin-2-yl-ethyl)-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene (200 mg, 0.50 mmol) and formaldehyde (43 μL, 0.54 mmol, 37% in water), and methylene chloride (5 mL). Stir 10 minutes at ambient temperature. Add sodium triacetoxyborohydride (158 mg, 0.74 mmol) and stir 1 hour at ambient temperature. Dilute with saturated sodium bicarbonate solution and extract with methylene chloride. Dry the extracts with sodium sulfate, filter and concentrate the filtrate. Purify by silica gel chromatography using 2N ammonia in methanol-methylene chloride (0%–4%) as the eluent to give the free base. Crystallize as the trihydrochloride salt from ethyl acetate and ethanol to give the title compound (161 mg, 78%): Mass spectrum (ion spray): m/z=418 (M+1), 416 (M−1). Analysis calculated for C24H27N5S.3HCl: C, 54.70; H, 5.74; N, 13.29. Found: C, 54.88; H, 6.02; N, 12.96.

reactant | 2-methyl-10-((S)-3-(2-pyridin-2-yl-ethyl)-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.50 mmol, 200 mg | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=NC=CC=C3 | C23H25N5S
reactant | formaldehyde | 0.54 mmol, 43 μL | C=O | CH2O
reactant | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
reactant | sodium triacetoxyborohydride | 0.74 mmol, 158 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-Methyl-10-(4-methyl-(S)-3-(2-pyridin-2-yl-ethyl)-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene trihydrochloride | 161 mg, 78% | Cl.Cl.Cl.CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)CCC3=NC=CC=C3 | InChI=1S/C24H27N5S.3ClH/c1-17-15-20-23(26-21-8-3-4-9-22(21)27-24(20)30-17)29-14-13-28(2)19(16-29)11-10-18-7-5-6-12-25-18;;;/h3-9,12,15,19,27H,10-11,13-14,16H2,1-2H3;3*1H/t19-;;;/m0.../s1
